US08754107B2
tert-Butyl (2S,3R)-1-(2-(6,7-dichloroquinazolin-4-ylamino)acetyl)-2-methylpyrrolidin-3-ylcarbamate was synthesized from tert-butyl (2S,3R)-1-(2-aminoacetyl)-2-methylpyrrolidin-3-ylcarbamate and 4,6,7-trichloroquinazoline using general procedure M. RP-HPLC (Table 1, Method d) Rt 5.67; m/z: (M+H)+ 454.

reactant | tert-butyl (2S,3R)-1-(2-aminoacetyl)-2-methylpyrrolidin-3-ylcarbamate | NCC(=O)N1[C@H]([C@@H](CC1)NC(OC(C)(C)C)=O)C | C12H23N3O3
reactant | 4,6,7-trichloroquinazoline | ClC1=NC=NC2=CC(=C(C=C12)Cl)Cl | C8H3Cl3N2
product | tert-Butyl (2S,3R)-1-(2-(6,7-dichloroquinazolin-4-ylamino)acetyl)-2-methylpyrrolidin-3-ylcarbamate | ClC=1C=C2C(=NC=NC2=CC1Cl)NCC(=O)N1[C@H]([C@@H](CC1)NC(OC(C)(C)C)=O)C | C20H25Cl2N5O3
